US08563577B2
Preparation of ethyl 2-(methylsulfonyloxy)-2-(thiophen-2-yl)acetate (I27)
Ethyl 2-hydroxy-2-(thiophen-2-yl)acetate (I26) (4.58 g, 24.6 mmol) was dissolved in dry DCM (125 ml) and cooled at 0° C. DIPEA (5.15 ml, 29.5 mmol) and methanesulphonyl chloride (2.11 ml, 27.1 mmol) were added, and the resulting solution was stirred at room temperature for 1 hour. DIPEA (0.86 ml, 4.92 mmol) and methanesulphonyl chloride (0.19 ml, 2.46 mmol) were added again. After 1 additional hour, a third portion of DIPEA (0.43 ml, 2.46 mmol) and methanesulphonyl chloride (77 ul, 0.98 mmol) was added. After 1 hour, the reaction was completed. The mixture was diluted with DCM, washed with sat. NaHCO3, water and brine, dried (Na2SO4), filtered, and evaporated. The resulting oil was used for the next step without any further purification.

reactant | Ethyl 2-hydroxy-2-(thiophen-2-yl)acetate | 24.6 mmol, 4.58 g | OC(C(=O)OCC)C=1SC=CC1 | C8H10O3S
reactant | DIPEA | 29.5 mmol, 5.15 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 27.1 mmol, 2.11 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 4.92 mmol, 0.86 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 2.46 mmol, 0.19 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 2.46 mmol, 0.43 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 0.98 mmol, 77 ul | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 125 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(methylsulfonyloxy)-2-(thiophen-2-yl)acetate | CS(=O)(=O)OC(C(=O)OCC)C=1SC=CC1 | C9H12O5S2
